US08377923B2
An aqueous sodium hydroxide solution (22.4 ml) was added to a solution of ethyl 2-(2,4-difluorophenoxy)-2-methylpropanoate (2.74 g) in methanol (27.4 ml) under ice cooling, followed by stirring at room temperature for 2 hours. The reaction solution was concentrated under reduced pressure, 1M hydrochloric acid was added thereto followed by extraction with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure to obtain 2-(2,4-difluorophenoxy)-2-methylpropanoic acid (2.38 g) as a colorless oily product.

reactant | sodium hydroxide | 22.4 ml | [OH-].[Na+]
reactant | ethyl 2-(2,4-difluorophenoxy)-2-methylpropanoate | 2.74 g | FC1=C(OC(C(=O)OCC)(C)C)C=CC(=C1)F | C12H14F2O3
solvent | methanol | 27.4 ml | CO | CH4O
product | 2-(2,4-difluorophenoxy)-2-methylpropanoic acid | 2.38 g | FC1=C(OC(C(=O)O)(C)C)C=CC(=C1)F | C10H10F2O3
